US07425635B2
2-Oxoselenazolidine-4(R)-carboxylic acid (OSCA).
L-Selenocystine (0.25 g, 0.75 mmol) was suspended in an evacuated flask containing 0.05N NaOH (10 mL) and ethanol (3 mL). To the solution, sodium borohydride (0.1 g, 2.6 mmol) was added slowly over about 10 min. The yellow solution was stirred for an additional 20 min until it became colorless and then was placed in an ice bath. The pH was adjusted to 5-6. 1,1′-Carbonyldiimidazole (0.2 g, 1.2 mmol) was added over 30 min, and the reaction mixture was stirred for 1 h. If the reaction mixture became yellow again, the above reduction and carbonylation steps were repeated. The reaction mixture was acidified to pH 2 and extracted with ethyl acetate (3×15 mL). The combined ethyl acetate layers were washed with saturated NaCl solution (2×15 mL), dried over MgSO4, then concentrated and dried under vacuum: 0.12 g, 0.62 mmol (41%). Mp 144-146° C. (d). TLC n-BuOH/H2O/acetic acid (3:2:1), Rf0.65. 1H NMR (D2), 500 MHz) δ 4.5 (dd, J=6, 8 Hz, 1H, H-4), 3.8 (dd, J=8, 10 Hz, 1H, H-5a), 3.6 (dd, J=6, 10 Hz, 1H, H-5b); 13C NMR (D2O, 125 MHz) δ 178.7, 178.5 (COOH, C-2), 61.0 (C-4), 34.3 (C-5); 77Se NMR (D2O, 95.3 MHz) δ 1352.8 IR (KBr) νmax 3300, 3000, 1700 cm−1. FABMS [M++1] m/z 195.9 (80Se). [α25−67.9° (c 0.5, water). Anal. calcd for C4H5NO3Se:C, 24.8; H, 2.60; N, 7.22. Found: C, 24.4; H, 2.72; N, 6.93.

reactant | L-Selenocystine | 0.75 mmol, 0.25 g | C([C@@H](C(=O)O)N)[Se][Se]C[C@@H](C(=O)O)N | C6H12N2O4Se2
reactant | NaOH | 0.05N, 10 mL | [OH-].[Na+]
reactant | sodium borohydride | 2.6 mmol, 0.1 g | [BH4-].[Na+]
reactant | 1,1′-Carbonyldiimidazole | 1.2 mmol, 0.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 2-Oxoselenazolidine-4(R)-carboxylic acid | O=C1[Se]C[C@H](N1)C(=O)O | C4H5NO3Se
